US07091357B2
To a stirred solution of (S)-nicotine (0.35 g, 2.2 mmol) in AcOH (10 ml) was added cis-1-bromo-dec-4-ene (1.15 g, 5.25 mmol). The mixture was heated at reflux for 3 days. AcOH was evaporated and the residue was recrystallized in ethyl acetate-CHCl3 to afford (S)-cis-1-dec-4-enyl-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt (NDNB-4c) (0.54 g, 54%) as hygroscopic white crystals: 1H NMR (300 MHz, CDCl3) δ 11.93 (1H, s), 10.75 (1H, s), 9.78 (1H, d, J=7.8 Hz), 8.69 (1H, d, J=6.0 Hz), 8.20 (1H, dd, J=7.8, 6.0 Hz), 5.88 (1H, m), 5.49 (1H, m), 5.30 (1H, m), 4.72 (2H, m), 4.01 (1H, m), 3.30 (1H, m), 2.97 (3H, d, J=5.1 Hz), 2.73 (1H, m), 2.10–2.60 (7H, m), 1.96 (2H, m), 1.70 (2H, m), 1.15–1.40 (6H, m), 0.86 (3H, t, J=7.2 Hz); 13C NMR (75 MHz, CDCl3) δ 147.41, 146.38, 144.98, 134.68, 132.93, 128.93, 126.06, 67.20, 62.37, 56.07, 38.71, 32.00, 31.64, 31.38, 29.34, 27.61, 23.94, 22.74, 21.91, 14.32; Anal. Calcd for C20H34Br2N2.0.5H2O: C, 50.97; H, 7.49; N, 5.94. Found: C, 50.90; H, 7.55; N, 5.94.

reactant | (S)-nicotine | 2.2 mmol, 0.35 g | N1=CC=CC(=C1)[C@H]1N(C)CCC1 | C10H14N2
reactant | cis-1-bromo-dec-4-ene | 5.25 mmol, 1.15 g | BrCCC\C=C/CCCCC | C10H19Br
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (S)-cis-1-dec-4-enyl-3-(1-methyl-pyrrolidin-2-yl)-pyridinium bromide hydrobromide salt | 0.54 g, 54% | Br.[Br-].C(CC\C=C/CCCCC)[N+]1=CC(=CC=C1)[C@H]1N(CCC1)C | InChI=1S/C20H33N2.2BrH/c1-3-4-5-6-7-8-9-10-16-22-17-11-13-19(18-22)20-14-12-15-21(20)2;;/h7-8,11,13,17-18,20H,3-6,9-10,12,14-16H2,1-2H3;2*1H/q+1;;/p-1/b8-7-;;/t20-;;/m0../s1
